Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14],1.4101282042299998
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-1.9079024864400005
[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:4].[O:1]=[C:2]([H:3])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],1.33604290479
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16],1.77808094444
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]=[C:8]([H:9])[H:10],2.45171137978
[C:1]=[C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]1[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11],4.09314499565
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[O:3]>>[O:1]=[C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],0.26777689028900004
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.83111685399
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])=[O:6]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.1884058564
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.211718557219998
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:3]([H:4])(=[C:8]=[C:5]([H:6])[H:7])[H:11].[H:1][C:2]#[C:9][H:10],-1.39033647388
[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C@:3]([H:4])([C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.07996748432
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.57866485131
[H:1][C:2]#[C:3][C:4][O:5][C:6]#[C:7][H:8]>>[H:1][C:2]#[C:3][C@:4]12[O:5][C:6]1[C:7]2[H:8],-0.86250712073
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:3]([H:4])([H:5])([H:6])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]=[C:7]([H:8])[H:9],1.86838184137
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],4.3896680979400005
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:5]([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3][H:4],5.74087103829
[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:8]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.66883170091
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]([H:5])([H:6])=[C:7][C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2][H:3],1.27557917542
[C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],-5.03061946785
[C:3]([H:4])#[C:5][H:6].[H:1][C:2][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2][C:3]([H:4])[C:5]([H:6])[C:7]([H:8])=[C:9][H:10],-1.94246317782
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]#[C:13][H:14].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]#[C:13][H:14],-3.73458407685
[C:12]([H:13])[H:14].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-5.184117326530001
[O:1]=[C:2]=[C:6]([C:5][O:4][C:3])[H:7]>>[O:1]=[C:2]1[C:3][O:4][C:5]=[C:6]1[H:7],-0.5153097652399999
[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]=[C:10]([H:11])[H:12],2.87821671819
[C:1]#[C:2][C:3][O:4][H:5].[C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-4.13085567964
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13]([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][C:9]([H:10])([H:11])[H:12])=[C:13][H:14],5.1144528546900005
[H:1][O:2]/[C:3]=[C:4](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:5]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-2.8464599706
